US05447954
±(4R*,5R*) 4-Carboxy-5-[8-(2,4-dichlorophenyl)octyl]-4-hydroxytetrahydrofuran-2-one
±(3R*,4S*) Methyl 12-(2,4-dichlorophenyl)-3,4-epoxy-3-methoxycarbonyldodecanoate (314 mg, 0.728 mmol) was heated at reflux in aqueous H2SO4 (7.5M) for 3.5 h. The solution was diluted with water, and extracted with ether. The extracts were washed with water, saturated aqueous NaCl, and dried (MgSO4). The solvent was removed under vacuum. Diazomethane, generated from diazald (450 mg, 2.10 mmol) and aqueous KOH (10.7M), was passed in a stream of ether saturated nitrogen through a solution of the crude acid in 10% methanol/ether (10 ml) until a yellow colouration was seen in the reaction flask. Excess diazomethane was quenched with acetic acid, then the solvent removed under vacuum. The residue was purified by chromatography on silica gel (50-80% ether/petroleum ether 40°-60° C.) to give the title compound (198 mg, 65%) as an oil.

reactant | (3R*,4S*) Methyl 12-(2,4-dichlorophenyl)-3,4-epoxy-3-methoxycarbonyldodecanoate | 0.728 mmol, 314 mg | ClC1=C(C=CC(=C1)Cl)CCCCCCCC[C@H]1[C@](CC(=O)OC)(C(=O)OC)O1 | C21H28Cl2O5
reactant | diazald | 2.10 mmol, 450 mg | CC1=CC=C(C=C1)S(=O)(=O)N(C)N=O | C8H10N2O3S
reactant | KOH | 10.7M | [OH-].[K+]
reactant | ether | CCOCC | C4H10O
solvent | H2SO4 | 7.5M | OS(=O)(=O)O | H2O4S
solvent | water | O | H2O
solvent | methanol ether | 10 ml | CO.CCOCC
product | (4R*,5R*) 4-Carboxy-5-[8-(2,4-dichlorophenyl)octyl]-4-hydroxytetrahydrofuran-2-one | 198 mg, 65% | C(=O)(O)[C@]1(CC(O[C@@H]1CCCCCCCCC1=C(C=C(C=C1)Cl)Cl)=O)O | C19H24Cl2O5
